US08293735B2
2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine
A mixture of 2,4-dichloro-thieno[3,2-d]pyrimidine (8.68 g, 42.34 mmol), morpholine (8.11 mL, 2.2 equivalents) and methanol (150 mL) was stirred at room temperature for 1 hour. The reaction mixture was then filtered, washed with water to yield the title compound a a white solid (11.04 g, 100%).

reactant | 2,4-dichloro-thieno[3,2-d]pyrimidine | 42.34 mmol, 8.68 g | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | morpholine | 8.11 mL, 2.2 equivalents | N1CCOCC1 | C4H9NO
solvent | methanol | 150 mL | CO | CH4O
product | 2-Chloro-4-morpholin-4-yl-thieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)N2CCOCC2 | C10H10ClN3OS
